US06503905B1
To a suspension of magnesium (2.4 g, 100 mmmol), in THF (20 mL) at room temperature was added dropwise a solution of bromoanisole (9.1 mL, 71.4 mmol) in THF (30 mL). The reaction mixture was stirred at room temperature for 2 h and at 60° C. for 2 h. The mixture was cooled to room temperature and a solution of 4-bromobenzaldehyde (13.2 g, 71.4 mmol) was added over 5 min. The reaction mixture was stirred at room temperature for 3 h and was quenched by addition of aqueous saturated ammonium chloride (NH4Cl) (30 mL). The aqueous layer was washed with ether (3×40 mL), dried over Na2SO4 and concentrated. Purification by flash chromatography with hexanes/EtOAc (10:1) afforded 16.95 g of (4-bromo-phenyl)-(3-methoxy-phenyl)-methanol. 1HNMR (400 MHz, CDCl3) δ 7.46-7.41 (comp, 2H), 7.27-7.18 (comp, 3H), 6.91-6.87 (comp, 2H), 6.81-6.78 (m, 1H), 5.73 (s, 1H), 3.76 (s, 3H); MS (M+1) 294.2.

reactant | magnesium | 2.4 g | [Mg] | Mg
reactant | bromoanisole | 71.4 mmol, 9.1 mL | BrC1=C(C=CC=C1)OC | C7H7BrO
reactant | 4-bromobenzaldehyde | 71.4 mmol, 13.2 g | BrC1=CC=C(C=O)C=C1 | C7H5BrO
solvent | THF | 20 mL | C1CCOC1 | C4H8O
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | (4-bromo-phenyl)-(3-methoxy-phenyl)-methanol | 16.95 g | BrC1=CC=C(C=C1)C(O)C1=CC(=CC=C1)OC | C14H13BrO2
